US06200975B1
a) 6-Bromo-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine
2-Bromopyridine-6-methanol (prepared as described in Tetrahedron Lett., 1996, 50, 2537) (5 g, 26.5 mmol) was added to a solution of dihydropyran (2.65 ml, 29.2 mmol), and p-toluenesulfonic acid (506 mg, 2.7 mmol) in dichloromethane (150 ml) at room temperature under nitrogen. After 24 h, the mixture was washed with sodium carbonate solution (×1) and water (×1), dried (MgSO4), evaporated in vacuo and the residue flash chromatographed on silica gel, eluting with 10% ethyl acetate/hexane to give the title-compound (6.04 g, 84%), 1H NMR (250 MHz, CDCl3) δ 1.5-1.9 (6H, m, 3 of CH2), 3.56 (1H, m, CH2O), 3.88 (1H, m, CH2O), 4.62 (1H, d, J=14.2 Hz, CH2O), 4.76 (1H, t, J=3.4 Hz, CHO), 4.93 (1H, d, J=14.6 Hz, CH2O), 7.37 (1H, d, J=7.6 Hz, Ar—H), 7.46 (1H, d, J=6.6 Hz, Ar—H), 7.56 (1H, t, J=7.6 Hz, Ar—H); MS (ES30) m/e 272 [MH]+.

reactant | 2-Bromopyridine-6-methanol | 26.5 mmol, 5 g | BrC1=NC(=CC=C1)CO | C6H6BrNO
reactant | dihydropyran | 29.2 mmol, 2.65 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 2.7 mmol, 506 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6-Bromo-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine | 6.04 g, 84% | BrC1=CC=CC(=N1)COC1OCCCC1 | C11H14BrNO2
